* Netlist gerada automaticamente a partir do circuit.json
.tran 1

I1 N001 0 12
I2 N002 N003 12
R1 N002 N003 560k
R2 N001 N004 1.0
R3 N004 0 390
V1 N004 N002 15
R4 0 N005 820k
R5 N003 N005 6.8k
R6 N002 0 1.0

.end