* Netlist gerada automaticamente a partir do circuit.json
.tran 1

I1 N001 0 12
I2 N002 N003 12
R1 N002 N003 560k
R2 N001 N004 220k
R3 N004 0 680
V1 N004 N002 15
R4 0 N005 220
R5 N003 N005 10
R6 N002 0 12k

.end