* Netlist gerada automaticamente a partir do circuit.json
.tran 1

I1 0 N001 12
I2 N002 N003 12
R1 N002 N003 560k
R2 N001 N004 22
R3 N004 0 1.5
V1 N004 N002 15
R4 0 N005 820k
R5 N003 N005 1.8k
R6 N002 0 3.3k

.end